US04126689
a mixture of 5 parts of ethyl 4-[N-(2,6-dimethylphenyl)-N-(Phenylacetyl)amino]-1-piperidinecarboxylate in 60 parts of hydrobromic acid solution 48% is warmed until the evolution of carbon dioxide is ceased. Heating is continued for 15 minutes at a temperature between 80°-120° C. The reaction mixture is evaporated. The solid residue is washed successively with methylbenzene and 2-propanone and dried, yielding 4.1 parts of N-(2,6-dimethylphenyl)-N-(4-piperidinyl)benzeneacetamide hydrobromide; mp. 251.5° C.

reactant | ethyl 4-[N-(2,6-dimethylphenyl)-N-(Phenylacetyl)amino]-1-piperidinecarboxylate | CC1=C(C(=CC=C1)C)N(C(CC1=CC=CC=C1)=O)C1CCN(CC1)C(=O)OCC | C24H30N2O3
reactant | hydrobromic acid | Br | BrH
reactant | carbon dioxide | C(=O)=O | CO2
product | N-(2,6-dimethylphenyl)-N-(4-piperidinyl)benzeneacetamide hydrobromide | Br.CC1=C(C(=CC=C1)C)N(C(CC1=CC=CC=C1)=O)C1CCNCC1 | InChI=1S/C21H26N2O.BrH/c1-16-7-6-8-17(2)21(16)23(19-11-13-22-14-12-19)20(24)15-18-9-4-3-5-10-18;/h3-10,19,22H,11-15H2,1-2H3;1H
